US04102801
Sixty grams fumed silica (sold as "Cab-O-Sil" MS-7 by Cabot Corp.) were agitated in a 1-liter flat bottom reaction kettle under a carbon dioxide atmosphere. The kettle was fitted with a stirrer, a gas inlet and an inlet from a pump. 1,2-Diaminopropane and carbon dioxide were simultaneously added via the pump and gas inlets over a period of 7.5 hrs. while the temperature was kept at 25°-30° C. At the end of this time 211 g. of 1,2-diaminopropane carbamate had been formed.

reactant | 1,2-Diaminopropane | NCC(C)N | C3H10N2
reactant | carbon dioxide | C(=O)=O | CO2
product | 1,2-diaminopropane carbamate | C(N)(O)=O.NCC(C)N | InChI=1S/C3H10N2.CH3NO2/c1-3(5)2-4;2-1(3)4/h3H,2,4-5H2,1H3;2H2,(H,3,4)
